US04054589
39 g. of 2,6-dichloro-4-methoxy-benzyl-triphenylphosphonium chloride and 16 g. of 7-formyl-3-methyl-octa-2,4,6-trien-1-oic acid ethyl ester are heated at 82°-85° C. under reflux conditions while stirring for 2 hours after the addition of 40 g. of 1,2-butylene oxide. The mixture is then thoroughly extracted with hexane. The hexane extract is washed several times with methanol/water (60:40 parts by volume), dried over sodium sulphate and evaporated under reduced pressure. The residue is purified by absorption on silica gel using hexane for the elution. The 9-(2,6-dichloro-4-methoxyphenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid ethyl ester obtained from the eluate melts at 117°-118° C. after recrystallization from hexane.

reactant | 2,6-dichloro-4-methoxy-benzyl-triphenylphosphonium chloride | [Cl-].ClC1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=CC(=C1)OC)Cl
reactant | 7-formyl-3-methyl-octa-2,4,6-trien-1-oic acid ethyl ester | C(C)OC(C=C(C=CC=C(C)C=O)C)=O | C12H16O3
reactant | 1,2-butylene oxide | C1C(CC)O1 | C4H8O
product | 9-(2,6-dichloro-4-methoxyphenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid ethyl ester | C(C)OC(C=C(C=CC=C(C=CC1=C(C=C(C=C1Cl)OC)Cl)C)C)=O | C20H22Cl2O3
